US07056917B2
(A) 8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-methoxy-3-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-4H-pyrido[1,2-a]pyrimidin-4-one
2-Hydroxy-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-3-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-4H-pyrido[1,2-a]pyrimidin-4-one (24 mg) was dissolved in dimethylformamide (1.5 ml), added with triethylamine (1.6 ml) and dimethyl sulfate (22 ml) and stirred overnight at room temperature. The reaction mixture was further added with dimethyl sulfate (5 ml), stirred for 4 hours, and then added with water and extracted with ethyl acetate. After the organic layer was dried over sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the title compound (5 mg).

reactant | 2-Hydroxy-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-3-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-4H-pyrido[1,2-a]pyrimidin-4-one | 24 mg | OC=1N=C2N(C(C1C=1N=NN(N1)CC1=CC=C(C=C1)OC)=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C | C25H25N7O3S
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfate | 22 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl sulfate | 5 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-methoxy-3-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-4H-pyrido[1,2-a]pyrimidin-4-one | 5 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)OC)C=2N=NN(N2)CC2=CC=C(C=C2)OC)=O)C=C1 | C26H27N7O3S
